US04024272
467 mg of 7-chloro-6-thiatetracycline in 25 ml of methanol are hydrogenated in the presence of 101 mg of triethylamine on 200 mg of 10% Pd-on-charcoal at 20° and normal pressure to give 6-thiatetracycline.

reactant | 4-dimethylamino-1,4,4a,5,5a,6,11,12a-octahydro-3,10,12,12a-tetrahydroxy-7-chloro-1,11-dioxo-6-thianaphthacene-2-carboxamide | 467 mg | CN(C1C(=C(C(C2(C(=C3C(C4=C(C=CC(=C4SC3CC12)Cl)O)=O)O)O)=O)C(=O)N)O)C | C20H19ClN2O7S
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 ml | CO | CH4O
product | 6-thiatetracycline | CN(C)[C@H]1[C@@H]2C[C@H]3C(=C(C4=C(C=CC=C4S3)O)O)C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O | C20H20N2O7S
